US08003649B2
A mixture of 3-(piperidin-4-yl)-1H-indole and 3-(difluoromethyl)-6-(piperazin-1-yl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by an analogous method to Example 216 to give 3-(difluoromethyl)-6-[4-(1H-indol-3-yl)piperidin-1-yl][1,2,4]triazolo[4,3-b]pyridazine in 85% yield.

reactant | 3-(piperidin-4-yl)-1H-indole | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | 3-(difluoromethyl)-6-(piperazin-1-yl)-[1,2,4]triazolo[4,3-b]pyridazine | FC(C1=NN=C2N1N=C(C=C2)N2CCNCC2)F | C10H12F2N6
product | 3-(difluoromethyl)-6-[4-(1H-indol-3-yl)piperidin-1-yl][1,2,4]triazolo[4,3-b]pyridazine | 85% yield | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CNC1=CC=CC=C21)F | C19H18F2N6
